US07358250B2
Step D: (5,6-Diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-(2-morpholin-4-yl-ethyl)-amine
A solution of [7-(2,4-Dimethoxybenzyl)-5,6-diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-(2-morpholin-4-ylethyl)-amine (54 mg, 0.1 mmol) in 2 mL of trifluoroacetic acid was heated to reflux. After 18 hours, the solution was concentrated to dryness and purified by preparative HPLC (C8 column, water, acetonitrile, 0.1% TFA) to give the title compound. Mass Spectrum (ESI) m/e=400 (M+1).

reactant | [7-(2,4-Dimethoxybenzyl)-5,6-diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-(2-morpholin-4-ylethyl)-amine | 0.1 mmol, 54 mg | COC1=C(CN2C(=C(C3=C2N=CN=C3NCCN3CCOCC3)C3=CC=CC=C3)C3=CC=CC=C3)C=CC(=C1)OC | C33H35N5O3
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (5,6-Diphenyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-(2-morpholin-4-yl-ethyl)-amine | C1(=CC=CC=C1)C1=C(NC=2N=CN=C(C21)NCCN2CCOCC2)C2=CC=CC=C2 | C24H25N5O
